US08609687B2
1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine
A solution of 4-nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole (568 mg, 2.88 mmol, 1 equiv) in methanol was circulated through a H-Cube® Continuous-flow hydrogenation reactor (ThalesNano) fitted with a palladium on carbon catalyst cartridge at 50° C. The collected solution was concentrated in vacuo to afford product as pink solid (458 mg, 95% yield). LCMS (ESI) m/z: 168.0.

reactant | 4-nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole | 2.88 mmol, 568 mg, 1 equiv | [N+](=O)([O-])C=1C=NN(C1)C1CCOCC1 | C8H11N3O3
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine | 458 mg, 95% yield | O1CCC(CC1)N1N=CC(=C1)N | C8H13N3O
